US03947470
A mixture of 4.94 g. (0.015 mol.) of carbon tetrabromide, 3.90 g. (0.015 mol.) of triphenylphosphine and 0.975 g. (0.015 g.-atom) of zinc in 25 ml. of carbon tetrachloride is stirred at 25° for 24 hours. A solution of 1.0 g. (7.45 mmol.) of p-ethylbenzaldehyde in 10 ml. of methylene chloride is added and the reaction mixture is stirred an additional 2 hours. Petroleum ether (140 ml.) is added to the mixture, the organic layer is decanted and the residue is extracted with 1:4 methylene chloride-petroleum ether. The combined organic solutions are concentrated under reduced pressure to give 1,1-dibromo-2-(4-ethylphenyl)ethylene.

reactant | carbon tetrabromide | 0.015 mol | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.015 mol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | p-ethylbenzaldehyde | 7.45 mmol | C(C)C1=CC=C(C=O)C=C1 | C9H10O
catalyst | zinc | 0.015 g | [Zn] | Zn
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,1-dibromo-2-(4-ethylphenyl)ethylene | BrC(=CC1=CC=C(C=C1)CC)Br | C10H10Br2
